US05874428
A mixture of potassium iodide (19.2 g, 0.12 mol) and methyl ethyl ketone (180 ml) was heated at reflux temperature for 1 h. A solution of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine (5.2 g, 0.019 mol, prepared similarly as described in example 1) in methyl ethyl ketone (25 ml) was added and heating at reflux temperature was continued for 3 h. Potassium carbonate (9.3 g, 0.067 mol) and 3-piperidineacetic acid ethyl ester hydrochloride (5.6 g, 0.027 mol) were added and the reaction mixture was heated at reflux temperature for 2 h. The temperature was lowered to just below reflux and the mixture was left with stirring overnight. After cooling, the reaction mixture was filtered (Hyflo) and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel (225 g) using a mixture of heptane and ethyl acetate (1:1) as eluent, to give 5.0 g of 1 -(3-(10,11-dihydro-5H-dibenz[b,f]-azepin-5-yl)-1-propyl)-3-piperidine-acetic acid ethyl ester as an oil.

reactant | potassium iodide | 0.12 mol, 19.2 g | [I-].[K+]
reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | Potassium carbonate | 0.067 mol, 9.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-piperidineacetic acid ethyl ester hydrochloride | 0.027 mol, 5.6 g | Cl.C(C)OC(CC1CNCCC1)=O
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 180 ml | C(C)C(=O)C | C4H8O
product | 1 -(3-(10,11-dihydro-5H-dibenz[b,f]-azepin-5-yl)-1-propyl)-3-piperidine-acetic acid ethyl ester | 5.0 g | C(C)OC(CC1CN(CCC1)CCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)=O | C26H34N2O2
